US06703347B2
A solution of methyl 4-hydroxyphenylacetate (25.0 g, 0.147 mol) in tetrahydrofuran (50 ml) was added dropwise to a stirred suspension of sodium hydride (4.45 g of an 80% dispersion in oil, 0.147 mol) in tetrahydrofuran (150 ml) and the mixture was stirred for 90 minutes. A solution of methyl iodide (20.9 g, 0.47 mol) in tetrahydrofuran (50 ml) was added dropwise and the mixture was stirred overnight at room temperature. The solvent was removed in vacuo, and the residue was partitioned between water and ethyl acetate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered and the filtrate was evaporated in vacuo. The residue was purified by chromatography on silica gel, eluting with ethyl acetate:hexane 1:9, to give methyl 4-methoxyphenylacetate (22.0 g) as a colourless oil.

reactant | methyl 4-hydroxyphenylacetate | 0.147 mol, 25.0 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 0.47 mol, 20.9 g | CI | CH3I
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | methyl 4-methoxyphenylacetate | 22.0 g | COC1=CC=C(C=C1)CC(=O)OC | C10H12O3
